US08431695B2
Preparation of 5-(2-benzyl-2H-indazol-6-yl)-7-[4-(4-propylpiperazin-1-yl)phenyl]pyrrolo[2,1-f][1,2,4]triazin-4-amine
To a solution of 5-(2-benzyl-2H-indazol-6-yl)-7-(4-piperazin-1-ylphenyl)pyrrolo[2,1-f][1,2,4]triazin-4-amine (75 mg, 0.15 mmol) and 1-iodopropane (31 mg, 0.18 mmol) in DMF (2 mL) was added potassium carbonate (37 mg, 0.27 mmol). The reaction was heated (50° C.) for 17 h. The reaction was cooled to rt and was partitioned between ethyl acetate (25 mL) and H2O (25 mL). The layers were separated and the organic was washed with brine, dried (Na2SO4) and concentrated. The residue was purified by preparative HPLC using a gradient elution from 15% to 50% acetonitrile in water followed by trituration with Et2O to obtain 21 mg (25%) of the desired product. 1H NMR (300 MHz, DMSO-d6) δ 8.55 (s, 1 H), 7.97-7.91 (m, 3 H), 7.81 (d, 1 H), 7.65 (s, 1 H), 7.37-7.26 (m, 5H), 7.19 (d, 1 H), 7.04-6.96 (m, 3 H), 5.66 (s, 2 H), 325-3.15 (m, 4 H), 2.51-2.48 (m, 4 H), 2.32-2.24 (m, 2 H), 1.53-1.42 (m, 2 H), 0.88 (t, 3 H), 2.89 (s, 4 H); ES-MS m/z 543.4 [M+H]+, HPLC RT (min) 2.40.

reactant | 5-(2-benzyl-2H-indazol-6-yl)-7-(4-piperazin-1-ylphenyl)pyrrolo[2,1-f][1,2,4]triazin-4-amine | 0.15 mmol, 75 mg | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2=CC=C(C=C2)N2CCNCC2 | C30H28N8
reactant | 1-iodopropane | 0.18 mmol, 31 mg | ICCC | C3H7I
reactant | potassium carbonate | 0.27 mmol, 37 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 5-(2-benzyl-2H-indazol-6-yl)-7-[4-(4-propylpiperazin-1-yl)phenyl]pyrrolo[2,1-f][1,2,4]triazin-4-amine | 21 mg, 25% | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2=CC=C(C=C2)N2CCN(CC2)CCC | C33H34N8
